US07608639B2
3-{4-[3-(2′-Fluoro-5-trifluoromethyl-biphenyl-2-yloxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid
The tile compound is prepared by reacting 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester with 2-fluorobenzene boronic acid as in Example 38 to afford 0.216 g (88%). 1H NMR (400 MHz, CDCl3); HRMS (ES+) m/z exact mass calculated for C30H25O4F4 525.1689, found 525.1675.

reactant | 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester | C(C)OC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)C)OC1=C(C=C(C=C1)C(F)(F)F)Br)C)=O | C26H24BrF3O4
reactant | 2-fluorobenzene boronic acid | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
product | 3-{4-[3-(2′-Fluoro-5-trifluoromethyl-biphenyl-2-yloxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid | FC1=C(C=CC=C1)C1=C(C=CC(=C1)C(F)(F)F)OC=1C=C(OC2=CC(=C(C=C2)CCC(=O)O)C)C=C(C1)C | C30H24F4O4
